US05719141
r) 1-Benzyloxymethyl-1-(bromomethyl)cyclopropane
58.9 g of 1-benzyloxymethyl-1-(hydroxymethyl)cyclopropane and 88.5 g of triphenylphosphine are dissolved in 600 ml of methylene chloride, and 60 g of N-bromosuccinimide are added in portions at 0° C. The reaction mixture is stirred at room temperature for 16 h and concentrated and the residue is purified by means of FC over 3 kg of silica gel with a 1:1 mixture of methylene chloride and hexane as the eluting agent. This gives 68 g of the pure title compound: Rf (1:1 mixture from methylene chloride and hexane)=0.50.

reactant | 1-benzyloxymethyl-1-(hydroxymethyl)cyclopropane | 58.9 g | C(C1=CC=CC=C1)OCC1(CC1)CO | C12H16O2
reactant | triphenylphosphine | 88.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 60 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzyloxymethyl-1-(bromomethyl)cyclopropane | C(C1=CC=CC=C1)OCC1(CC1)CBr | C12H15BrO
